US04294827
(4) 3-Benzylidene-1-chlorocarbonyl-2-pyrrolidinone
2.0 g (20.5 mmols) of phosgene are added to a suspension of 3.0 g (18.6 mmols) of 3-benzylidene-2-pyrrolidinone 50 ml in abs. ethyl acetate at -20°. A solution of 3.8 g (20.5 mmols) of tri-n-butylamine in 20 ml of abs. ethyl acetate is added dropwise to this mixture at 0° to 5°. After stirring for 4 hours at room temperature, dry nitrogen is passed through the mixture for 30 minutes and the mixture is then concentrated. Water is added to the oily residue, whereupon the acid chloride precipitates in the solid form. It is filtered off and dried over P2O5 and KOH is a desiccator. 3.5 g (84.5%).

reactant | phosgene | 20.5 mmols, 2.0 g | C(=O)(Cl)Cl | CCl2O
reactant | 3-benzylidene-2-pyrrolidinone | 18.6 mmols, 50 ml, 3.0 g | C(C1=CC=CC=C1)=C1C(NCC1)=O | C11H11NO
reactant | tri-n-butylamine | 20.5 mmols, 3.8 g | C(CCC)N(CCCC)CCCC | C12H27N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Benzylidene-1-chlorocarbonyl-2-pyrrolidinone | C(C1=CC=CC=C1)=C1C(N(CC1)C(=O)Cl)=O | C12H10ClNO2
